US20010006977A1
e. 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-hydroxy-propionic acid
Prepared analogously to Example 1e from 2-(4-chloro-3-nitro-phenyl)-3-hydroxy-2-methyl-propionic acid and N-methyl-benzylamine.

reactant | 2-(4-chloro-3-nitro-phenyl)-3-hydroxy-2-methyl-propionic acid | ClC1=C(C=C(C=C1)C(C(=O)O)(CO)C)[N+](=O)[O-] | C10H10ClNO5
reactant | N-methyl-benzylamine | CNCC1=CC=CC=C1 | C8H11N
product | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-hydroxy-propionic acid | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)O)(CO)C)[N+](=O)[O-])C | C18H20N2O5
